US08207328B2
N-benzyl,N-benzyloxycarbonyl lactosamine (200 mg) was dissolved in MeOH (30 mL) and HCl in MeOH (400 μL, 1.4 mmol/mL) added to the mixture followed by addition of Pd/C (50 mg) and stirred under H2 (20 bar) for 8 h. The catalyst filtered off and the filtrate concentrated affording lactosamine (100 mg) as a white powder.

reactant | N-benzyl,N-benzyloxycarbonyl lactosamine | 200 mg | C(C1=CC=CC=C1)N([C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CO)C(=O)OCC1=CC=CC=C1 | C27H35NO12
reactant | HCl | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
solvent | MeOH | 1.4 mmol/mL, 400 μL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | lactosamine | 100 mg | OC1[C@H](N)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H23NO10
